US08809324B2
3a-[(R)-6,6-Dimethyl-4,4-dioxo-5-(4-piperidin-4-yl-phenyl)-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino]hexahydro-2,5-methanopentalene-2-carboxamide
A solution of 4-{4-[(R)-2-(2-carbamoylhexahydro-2,5-methanopentalen-3a-ylamino)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-5-yl]-phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid butyl ester (100 mg) in methanol (10 mL) was admixed with palladium on carbon (10%, 100 mg) and the mixture was stirred in a hydrogen atmosphere for 1.5 h. The mixture was filtered and concentrated. The residue was dissolved in 5 mL of dichloromethane, and 1 mL of trifluoroacetic acid was added. After stirring at room temperature for 1 h, the solvent was removed under reduced pressure and TFA ester formed was cleaved by treatment with 1 N HCl. Extraction with ethyl acetate gave the crude product, which was used without further purification.

reactant | 4-{4-[(R)-2-(2-carbamoylhexahydro-2,5-methanopentalen-3a-ylamino)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-5-yl]-phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid butyl ester | 100 mg | C(CCC)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)[C@H]1S(N=C(OC1(C)C)NC12CC3(CC2CC(C1)C3)C(N)=O)(=O)=O | C31H42N4O6S
reactant | hydrogen | [H][H] | H2
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3a-[(R)-6,6-Dimethyl-4,4-dioxo-5-(4-piperidin-4-yl-phenyl)-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino]hexahydro-2,5-methanopentalene-2-carboxamide | CC1([C@H](S(N=C(O1)NC12CC3(CC2CC(C1)C3)C(=O)N)(=O)=O)C3=CC=C(C=C3)C3CCNCC3)C | C26H36N4O4S
